US04402699
2,4-dichloro-3-benzylidene-aminophenol hydrochloride
Analogously to the procedure and data in Examples 1 and 2, 2,4-dichloro-3-aminophenol hydrochloride was reacted with benzaldehyde. The reaction product of this example of this invention had the following characteristic data: IR-spectrum (Kbr) cm-1 : 1692, 1620, 1598, 1582, 1515, 1480, 1450, 1430, 1310, 1205, 1160, 1075, 1030, 930, 905, 890, 872, 830, 805, 745, 700, 685, 650.

reactant | 2,4-dichloro-3-aminophenol hydrochloride | Cl.ClC1=C(C=CC(=C1N)Cl)O
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | 2,4-dichloro-3-benzylidene-aminophenol hydrochloride | Cl.ClC1C(=CC(=C(C1=CC1=CC=CC=C1)Cl)N)O | InChI=1S/C13H11Cl2NO.ClH/c14-12-9(6-8-4-2-1-3-5-8)13(15)11(17)7-10(12)16;/h1-7,13,17H,16H2;1H
